US04472305
Condensation of FmocDLys(Boc)OH (1.00 g.) and HLeu-MetNH2 hydrochloride salt (Example 1, 0.63 g.) using dicyclohexylcarbodiimide and 1-hydroxybenzotriazole gave FmocDLys(Boc)-Leu-MetNH2 in 87% yield. De-9-fluorenylmethoxycarbonylation of FmocDLys(Boc)-Leu-MetNH2 (1.00 g.) using piperidine in dimethylformamide gave HDLys(Boc)-Leu-MetNH2 in 100% yield.

reactant | FmocDLys(Boc)-Leu-MetNH2 | 1.00 g | N([C@H](CCCCNC(=O)OC(C)(C)C)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCSC)C(=O)N)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C37H53N5O7S
reactant | piperidine | N1CCCCC1 | C5H11N
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | HDLys(Boc)-Leu-MetNH2 | 100% yield | N[C@H](CCCCNC(=O)OC(C)(C)C)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCSC)C(=O)N | C22H43N5O5S
